US06262090B1
3-(2-Chloro-4-nitro-phenoxy)-1-methyl-pyrrolidine
To a solution of 2-chloro-4-nitrophenol (2.0 g) in tetrahydrofuran (60 mL) is added 1-methyl-3-pyrrolidinol (2.3 g), triphenyl phosphine (6.0 g), and diethylazo-dicarboxylate (3.6 mL) and the mixture is stirred at room temperature under an atmosphere of argon for 1.5 hours. The solution is then concentrated under reduced pressure, diluted with ethyl acetate, washed successively with 10% aqueous sodium hydroxide, water, saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent is removed by evaporation under reduced pressure and the residue is chromatographed over silica gel (ethyl acetate then 10% methanol in dichloromethane is used as the eluant). Pooled product fractions are then recrystallized from hexanes to provide the desired product as a yellow solid.

reactant | 2-chloro-4-nitrophenol | 2.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | 1-methyl-3-pyrrolidinol | 2.3 g | CN1CC(CC1)O | C5H11NO
reactant | triphenyl phosphine | 6.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 3-(2-Chloro-4-nitro-phenoxy)-1-methyl-pyrrolidine | ClC1=C(OC2CN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C11H13ClN2O3
